US05569768
2-(3,4-Diaminophenyl)benzonitrile (2.4 moles, 0.50 g) was dissolved in 3 ml ethanol. Ethyl phenylacetamidate hydrochloride (2.88 mmoles, 0.573 g) (prepared from HCl gas bubbled through benzyl cyanide and ethanol) was added. The reaction was warmed on a steam bath for 10 minutes. Ethyl acetate and brine were added. The organic phase was separated, dried and concentrated. The product was precipitated from ethyl acetate and hexane and filtered to yield 290 mg of 2-benzyl-5-(2-cyanophenyl)-1H-benzimidazole. (MS)

reactant | 2-(3,4-Diaminophenyl)benzonitrile | 2.4 moles, 0.50 g | NC=1C=C(C=CC1N)C1=C(C#N)C=CC=C1 | C13H11N3
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 2-benzyl-5-(2-cyanophenyl)-1H-benzimidazole | 290 mg | C(C1=CC=CC=C1)C1=NC2=C(N1)C=CC(=C2)C2=C(C=CC=C2)C#N | C21H15N3
